US06359134B1
1-(4-Benzylmethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride
To 1-(4-benzylmethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine (358 mg) was added 4 N hydrochloric acid in ethyl acetate solution (5 ml), and the precipitated hydrochlorides were filtered to give the title compound (391 mg).

reactant | 1-(4-benzylmethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine | 358 mg | C(C1=CC=CC=C1)CNCC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | C30H31N3O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Benzylmethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride | 391 mg | Cl.C(C1=CC=CC=C1)CNCC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C30H31N3O3S.ClH/c34-30(27-12-10-25(11-13-27)23-31-17-16-24-6-2-1-3-7-24)32-18-20-33(21-19-32)37(35,36)29-15-14-26-8-4-5-9-28(26)22-29;/h1-15,22,31H,16-21,23H2;1H
